.include NOT.sub
.subckt XNOR node_A node_B node_OUT VDD GND
X_xnor_1 node_A node_NA VDD GND NOT
X_xnor_2 node_B node_NB VDD GND NOT
* PMOS PART 
Mp1 node_P node_A VDD VDD CMOSP W = {wp1} L = {lp1}
    + AS = {5*wp1*LAMBDA} PS = {10*LAMBDA + 2*wp1} 
    + AD = {5*wp1*LAMBDA} PD = {10*LAMBDA + 2*wp1}

Mp2 node_OUT node_B node_P VDD CMOSP W = {wp2} L = {lp2}
    + AS = {5*wp2*LAMBDA} PS = {10*LAMBDA + 2*wp2}
    + AD = {5*wp2*LAMBDA} PD = {10*LAMBDA + 2*wp2}

Mp3 node_R node_NA VDD VDD CMOSP W = {wp1} L = {lp1}
    + AS = {5*wp1*LAMBDA} PS = {10*LAMBDA + 2*wp1} 
    + AD = {5*wp1*LAMBDA} PD = {10*LAMBDA + 2*wp1}

Mp4 node_OUT node_NB node_R VDD CMOSP W = {wp2} L = {lp2}
    + AS = {5*wp2*LAMBDA} PS = {10*LAMBDA + 2*wp2}
    + AD = {5*wp2*LAMBDA} PD = {10*LAMBDA + 2*wp2}

*NMOS PART 
Mn1 node_OUT node_A node_Q GND CMOSN W = {wn1} L = {ln1}
    + AS = {5*wn1*LAMBDA} PS = {10*LAMBDA + 2*wn1}
    + AD = {5*wn1*LAMBDA} PD = {10*LAMBDA + 2*wn1}

Mn2 node_Q node_NB GND GND CMOSN W = {wn2} L = {ln2}
    + AS = {5*wn2*LAMBDA} PS = {10*LAMBDA + 2*wn2} 
    + AD = {5*wn2*LAMBDA} PD = {10*LAMBDA + 2*wn2}

Mn3 node_OUT node_NA node_S GND CMOSN W = {wn1} L = {ln1}
    + AS = {5*wn1*LAMBDA} PS = {10*LAMBDA + 2*wn1}
    + AD = {5*wn1*LAMBDA} PD = {10*LAMBDA + 2*wn1}

Mn4 node_S node_B GND GND CMOSN W = {wn2} L = {ln2}
    + AS = {5*wn2*LAMBDA} PS = {10*LAMBDA + 2*wn2} 
    + AD = {5*wn2*LAMBDA} PD = {10*LAMBDA + 2*wn2}

.ends XNOR